US04976773
Diethylamine (2.4 g) was dissolved in pyridine (15 ml) and 3-nitrobenzenesulfonyl chloride (6.7 g) was added, followed by stirring at 50° C. for 2 hours. The residue obtained by an evaporation of pyridine under a reduced pressure was dissolved in methylene chloride (150 ml), washed with water, 1N hydrochloric acid, water, and saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate. Evaporation of the solvent under a reduced pressure gave N,N-diethyl-3-(nitro)benzenesulfonamide (4.0 g).

reactant | Diethylamine | 2.4 g | C(C)NCC | C4H11N
reactant | 3-nitrobenzenesulfonyl chloride | 6.7 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N,N-diethyl-3-(nitro)benzenesulfonamide | 4.0 g | C(C)N(S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])CC | C10H14N2O4S
